US07622583B2
4-tert-Butyl-N-[5-chloro-2-(2-fluoro-benzoyl)-pyridin-3-yl]-benzenesulfonamide
N-(2-Bromo-5-chloro-pyridin-3-yl)-4-tert-butyl-N-methoxymethyl-benzenesulfonamide (140 mg, 300 mmol) was placed in a dry 2-neck 10 mL round-bottom flask. The flask was evacuated and purged with nitrogen, followed by the addition of THF (1 mL). The homogeneous mixture was lowered to −5° C. and iPrMgCl (0.33 mL, 2.0 M) was added dropwise. Upon completion of the addition, the reaction was stirred 90 minutes, followed by the slow addition of 2-fluoro-N-methoxy-N-methyl-benzamide (140 mg, 750 mmol). The reaction was stirred overnight, during which the ice-bath warmed to room temperature. The following day, the reaction was quenched with a small quantity of MeOH and the solvents evaporated in vacuo. The residue was subsequently treated with 4.0 M HCl (in dioxane) (1 mL, 4.0 mmol) and H2O (0.33 mL), and then stirred at 80° C. for two hours. The resultant solution was diluted with EtOAc, washed with water, saturated sodium bicarbonate, and brine; dried with MgSO4, and evaporated employing reduced pressure. The crude sulfonamide was finally purified via preparatory TLC (20% EtOAc/hexanes) and recrystallization from MeCN/H2O to afford 98 mg of the title compound: 1H NMR (400 MHz, CDCl3) δ 10.6 (s, 1 H), 8.3 (d, 1 H), 8.2 (d, 1 H), 7.74 (d, 2H), 7.6 (d, 1 H), 7.5 (d, 1 H), 7.43 (d, 2H), 7.42-7.37 (m, 2H), 1.26 (s, 9H); MS (ES) M+H expect 447.1, found 447.5.

reactant | N-(2-Bromo-5-chloro-pyridin-3-yl)-4-tert-butyl-N-methoxymethyl-benzenesulfonamide | 300 mmol, 140 mg | BrC1=NC=C(C=C1N(S(=O)(=O)C1=CC=C(C=C1)C(C)(C)C)COC)Cl | C17H20BrClN2O3S
reactant | 2-fluoro-N-methoxy-N-methyl-benzamide | 750 mmol, 140 mg | FC1=C(C(=O)N(C)OC)C=CC=C1 | C9H10FNO2
reactant | HCl | 4.0 mmol, 4.0 M, 1 mL | Cl | ClH
reactant | H2O | 0.33 mL | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-tert-Butyl-N-[5-chloro-2-(2-fluoro-benzoyl)-pyridin-3-yl]-benzenesulfonamide | 98 mg | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC=1C(=NC=C(C1)Cl)C(C1=C(C=CC=C1)F)=O | C22H20ClFN2O3S
